US09238644B2
(c) 2-(2-((Trimethylsilyl)ethynyl)phenyl)butanamide (I3)
Ethynyltrimethylsilane (0.11 mL, 0.80 mmol) and dry DMF (9.0 mL) was added to a mixture of 2-(2-iodophenyl)butanamide (I2) (193 mg, 0.668 mmol), PdCl2(PPh3)2 (23 mg, 0.033 mmol), t-Bu3PH.BF4 (10 mg, 0.033 mmol) and CuI (6 mg, 0.033 mmol) under nitrogen. The resulting solution was degassed with a stream of nitrogen for 10 minutes before the addition of Et3N (3.0 mL). The resulting mixture was stirred at 60° C. under nitrogen for 16 hours then adsorbed onto silica gel and purified by column chromatography (Biotage Isolera, SiO2 cartridge, 0-100% EtOAc in petroleum benzine 40-60° C.) to give the title compound I3 as a tan coloured solid (151 mg, 87); 1H NMR (400 MHz, d6-DMSO) δ 7.46-7.39 (m, 2H), 7.34 (td, J=7.7, 1.4 Hz, 1H), 7.26 (br, 1H), 7.21 (td, J=7.5, 1.4 Hz, 1H), 6.97 (br, 1H), 3.80 (dd, J=8.9, 5.7 Hz, 1H), 1.95-1.80 (m, 1H), 1.69-1.55 (m, 1H), 0.85 (t, J=7.3 Hz, 3H), 0.25 (s, 9H). LCMS-A: rt 6.267 min; m/z 260 [M+H]+.

reactant | Ethynyltrimethylsilane | 0.80 mmol, 0.11 mL | C(#C)[Si](C)(C)C | C5H10Si
reactant | 2-(2-iodophenyl)butanamide | 0.668 mmol, 193 mg | IC1=C(C=CC=C1)C(C(=O)N)CC | C10H12INO
reactant | BF4 | 0.033 mmol, 10 mg | F[B-](F)(F)F
catalyst | PdCl2(PPh3)2 | 0.033 mmol, 23 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 0.033 mmol, 6 mg | [Cu]I
solvent | DMF | 9.0 mL | CN(C)C=O | C3H7NO
product | 2-(2-((Trimethylsilyl)ethynyl)phenyl)butanamide | C[Si](C)(C)C#CC1=C(C=CC=C1)C(C(=O)N)CC | C15H21NOSi
